US07105567B2
By the reaction and treatment in the same manner as in Example 2 using (4-octylphenyl)[(4-phenoxyphenyl)methyl]amine (1.53 g) and 2,6-diisopropylphenyl isocyanate (0.88 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-(4-octylphenyl)-N-[(4-phenoxyphenyl)methyl]urea (0.55 g) was obtained.

reactant | (4-octylphenyl)[(4-phenoxyphenyl)methyl]amine | 1.53 g | C(CCCCCCC)C1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C27H33NO
reactant | 2,6-diisopropylphenyl isocyanate | 0.88 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-(4-octylphenyl)-N-[(4-phenoxyphenyl)methyl]urea | 0.55 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)CCCCCCCC)=O | C40H50N2O2
